US08377923B2
Pyridin-4-ylboronic acid (26 mg), tetrakis triphenylphosphine palladium (10 mg) and sodium carbonate (156 mg) were added to a mixed solution of 3-[1-(2-bromo-4-chlorophenoxy)-1-methylethyl]-4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazole (100 mg) in toluene-ethanol-water (2 ml, 3:2:1), followed by stirring at 110° C. for 2 days. The reaction solution was concentrated under reduced pressure and diluted with chloroform. The organic layer was washed with water and saturated brine in this order and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by thin layer chromatography (ethyl acetate:methanol=98:2). The resulting solid was dissolved in ethyl acetate and 4M hydrogen chloride-ethyl acetate was added thereto, followed by stirring at room temperature for 2 hours. The precipitated crystal was collected by filtration and washed with ethyl acetate to obtain 4-[5-chloro-2-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)phenyl]pyridine dihydrochloride (19 mg) as a white crystal.

reactant | Pyridin-4-ylboronic acid | 26 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | sodium carbonate | 156 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-[1-(2-bromo-4-chlorophenoxy)-1-methylethyl]-4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazole | 100 mg | BrC1=C(OC(C)(C)C2=NN=C(N2C)C2=C(C=CC=C2)C(F)(F)F)C=CC(=C1)Cl | C19H16BrClF3N3O
solvent | toluene-ethanol water | 2 ml | C=1(C(=CC=CC1)CCO)C.O
product | 4-[5-chloro-2-(1-methyl-1-{4-methyl-5-[2-(trifluoromethyl)phenyl]-4H-1,2,4-triazol-3-yl}ethoxy)phenyl]pyridine dihydrochloride | 19 mg | Cl.Cl.ClC=1C=CC(=C(C1)C1=CC=NC=C1)OC(C)(C1=NN=C(N1C)C1=C(C=CC=C1)C(F)(F)F)C | InChI=1S/C24H20ClF3N4O.2ClH/c1-23(2,33-20-9-8-16(25)14-18(20)15-10-12-29-13-11-15)22-31-30-21(32(22)3)17-6-4-5-7-19(17)24(26,27)28;;/h4-14H,1-3H3;2*1H
